US04634689
(A) 1-Bromo-5-(4-Cyanophenyl]-4-Pentene
Add (4-cyanophenylmethyl)triphenylphosphonium bromide (27.25 g) to dry THF (65 ml) and cool to -20° C. under an argon atmosphere. With stirring, dropwise add 65 ml of a solution of 1 molar lithium bis(trimethylsilyl)amide in THF, maintaining the temperature at -20° C. Stir for 30 minutes at -20° C.; then for 30 minutes at 0° C. Cool to -20° C. and add freshly distilled 4-bromobutanal (10.50 g) dropwise with stirring. Stir at -20° C. for 1 hour, then at room temperature for 16 hours. Remove the solid material by filtration and wash with THF. Vacuum evaporate the solvent from the filtrate and purify the resultant residue by chromatography on silica gel, eluting with CH2Cl2 :hexane(4:1). Combine the desired fractions and vacuum evaporate the solvent to obtain the title compound.

reactant | (4-cyanophenylmethyl)triphenylphosphonium bromide | 27.25 g | [Br-].C(#N)C1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium bis(trimethylsilyl)amide | 1 molar | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-bromobutanal | 10.50 g | BrCCCC=O | C4H7BrO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | 1-Bromo-5-(4-Cyanophenyl]-4-Pentene | BrCCCC=CC1=CC=C(C=C1)C#N | C12H12BrN
